US06727256B1
4-Hydroxy-6-iodo-7-fluoroquinazoline
Dimethylformamide (0.5 liters), 4-fluoro-5-iodo-isatoic anhydride (45 grams, 147 mmoles), and formamidine acetate (45.92 grams, 441 mmoles), were combined in a one liter one-neck flask fitted with a magnetic stir bar. The mixture was placed under anhydrous nitrogen and heated at 110° C. for 6 hours. The mixture was allowed to cool, followed by concentrating the reaction mixture to one third its original volume on the rotary evaporator. The resulting mixture was poured onto 3 liters of ice water. The resulting precipitated solid was collected by suction filtration. The solid was washed with an additional one liter of distilled water. The resulting solid was dried under vacuum at 70° C. to yield 38.9 grams (91%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 12.43(s, 1H), 8.46(d, 1H), 8.12(s, 1H), 7.49(d, 1H). ESI-MS m/z 291 (M+1).

reactant | 4-fluoro-5-iodo-isatoic anhydride | 147 mmoles, 45 grams | FC=1C=C2C(C(=O)OC(N2)=O)=CC1I | C8H3FINO3
reactant | formamidine acetate | 441 mmoles, 45.92 grams | C(C)(=O)O.C(=N)N
solvent | Dimethylformamide | 0.5 liters | CN(C=O)C | C3H7NO
product | 4-Hydroxy-6-iodo-7-fluoroquinazoline | 38.9 grams, 91% | OC1=NC=NC2=CC(=C(C=C12)I)F | C8H4FIN2O
